US07612238B2
(R)-2-Amino-2-methyl-4-[4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-butan-1-ol Hydrochloride
To tert-butyl {(R)-1-hydroxy-2-methyl-4-[4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-but-2-yl}-carbamate (25 mg, 0.055 mmol) is added 4 M HCl in dry dioxane (1 ml). The clear colorless solution is stirred for 2 h protected from moisture. Then, the solution is evaporated to dryness and the partially crystalline residue is taken up in dry ether (5 ml). Sonication for 10 min gives a precipitate of colorless crystals. The product is filtered off, washed with cold ether (3×1 ml), and dried in vacuo to afford the title compound in form of a non hygroscopic colorless microcrystalline powder: mp. 186-189° C. MS (ESI+): 356 (MH+), 1H-NMR (400 MHz, CD3OD): δ 1.35 (s, 3H, 2-Me), 1.91 (cm, 2H, 3-CH2), 2.06 (cm, 2H, 2′-CH2), 2.35 (cm, 2H, 3′-CH2), 2.63 (cm, 2H, 4-ArCH2), 3.55 (d, 1H, 2J=12.1, 1-CHα), 3.63 (d, 1H, 2J=11.9, 1-CHβ), 4.06 (t, 3H, 3J=7.1, 1′-OCH2), 6.88 (‘d’, 2H, J=11.0, ArH), 7.18 (‘d’, J=10.8 Hz, ArH).

reactant | tert-butyl {(R)-1-hydroxy-2-methyl-4-[4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-but-2-yl}-carbamate | 0.055 mmol, 25 mg | OC[C@](CCC1=CC=C(C=C1)OCCCC(C(F)(F)F)(F)F)(C)NC(OC(C)(C)C)=O | C21H30F5NO4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-2-methyl-4-[4-(4,4,5,5,5-pentafluoro-pentyloxy)-phenyl]-butan-1-ol Hydrochloride | Cl.N[C@@](CO)(CCC1=CC=C(C=C1)OCCCC(C(F)(F)F)(F)F)C | InChI=1S/C16H22F5NO2.ClH/c1-14(22,11-23)9-7-12-3-5-13(6-4-12)24-10-2-8-15(17,18)16(19,20)21;/h3-6,23H,2,7-11,22H2,1H3;1H/t14-;/m1./s1
